US07491752B2
Preparation can be carried out analogously to Synthetic Example 1 using 6.71 g (10.0 mmol) bis{6-[(2-oxo-2H-chromen-7-yl)oxy]hexyl}5-hydroxyisophthalate, 1.14 g (10.5 mmol) 4-chloro-1-butanol, 2.88 g (11.0 mmol) triphenylphosphine and 4.79 g (11.0 mmol) of a 40% solution of azodicarboxylic acid diethyl ester in toluene to yield bis{6-[(2-oxo-2H-chromen-7-yl)oxy]hexyl}5-(4-chlorobutoxy)isophthalate.

reactant | bis{6-[(2-oxo-2H-chromen-7-yl)oxy]hexyl}5-hydroxyisophthalate | 10.0 mmol, 6.71 g | O=C1OC2=CC(=CC=C2C=C1)OCCCCCCOC(C1=CC(C(=O)OCCCCCCOC2=CC=C3C=CC(OC3=C2)=O)=CC(=C1)O)=O | C38H38O11
reactant | 4-chloro-1-butanol | 10.5 mmol, 1.14 g | ClCCCCO | C4H9ClO
reactant | triphenylphosphine | 11.0 mmol, 2.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxylic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | bis{6-[(2-oxo-2H-chromen-7-yl)oxy]hexyl}5-(4-chlorobutoxy)isophthalate | O=C1OC2=CC(=CC=C2C=C1)OCCCCCCOC(C1=CC(C(=O)OCCCCCCOC2=CC=C3C=CC(OC3=C2)=O)=CC(=C1)OCCCCCl)=O | C42H45ClO11
